US08541588B2
4-(4-chloro-2-(1H-pyrazol-4-yl)phenoxy)-3-cyano-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide
The title compound was prepared from 4-(4-chloro-2-iodophenoxy)-3-cyano-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide (Preparation 355) and (4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole using Method E above with microwave irradiation for 1 hour at 85° C.

reactant | 4-(4-chloro-2-iodophenoxy)-3-cyano-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)NC2=NC=NS2)C#N)C=C1)I | C15H8ClIN4O3S2
reactant | (4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)N1N=CC=C1)C | C9H15BN2O2
product | 4-(4-chloro-2-(1H-pyrazol-4-yl)phenoxy)-3-cyano-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)NC2=NC=NS2)C#N)C=C1)C=1C=NNC1 | C18H11ClN6O3S2
